US07935830B2
Step B. 2-Benzyl-5-methoxy-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
InCl3 (0.38 g, 1.7 mmol) and chlorodiphenylsilane (1.3 mL, 6.8 mmol) were added to a solution of 2-benzyl-5-methoxy-1,2,3,3a,8,8a-hexahydro-2-aza-cyclopenta[a]inden-8-ol (3.4 mmol) in DCE (17 mL), and stirred overnight at 60° C. The reaction mixture was washed with H2O, a saturated aqueous NaHCO3 solution and brine. The organic extracts were dried over MgSO4 and concentrated. The crude product was obtained without further purification. MS calculated for C19H21NO+H: 280, observed: 280.

reactant | chlorodiphenylsilane | 6.8 mmol, 1.3 mL | Cl[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C12H11ClSi
reactant | 2-benzyl-5-methoxy-1,2,3,3a,8,8a-hexahydro-2-aza-cyclopenta[a]inden-8-ol | 3.4 mmol | C(C1=CC=CC=C1)N1CC2C(C=3C=C(C=CC3C2O)OC)C1 | C19H21NO2
solvent | DCE | 17 mL | ClCCCl | C2H4Cl2
product | 2-Benzyl-5-methoxy-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C1=CC=CC=C1)N1CC2C(C1)CC=1C=CC(=CC12)OC | C19H21NO
